US09085555B2
(1-Carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid
To a solution of (1-carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid methyl ester Example 133 (85 mg, 0.145 mmol) in THF (1.2 mL) and H2O (120 μL) was added NaOH 1N (290 μL, 0.29 mmol) and the reaction mixture was stirred at RT for 20 min. The crude was directly purified using trimethylaminopropyl cartridge (Mega Bond Elut-SAX, 1 g from Varian) pre-washed with CH3CN (10 mL) and the compound was released with 10 mL of HCl 0.1N in CH3CN. The resulting solution was concentrated and purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 19×50 mm, eluent: 20% to 100% CH3CN in H2O in 15 min, CH3CN and H2O containing 0.1% HCOOH, flow: 20 mL/min) to give the desired material after lyophilization of the purified fractions. MS (UPLC-MS): 544.3/546.3 [M+H]+, 566.4/568.3 [M+Na]+, 542.3/544.4 [M−H]−; tR (HPLC conditions f): 1.72 min.

reactant | (1-carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid methyl ester | COC(COC=1C=C2C(=CN(C2=CC1)C(N)=O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)=O | C26H25ClFN5O6
reactant | NaOH | 0.29 mmol, 1N, 290 μL | [OH-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | H2O | 120 μL | O | H2O
product | (1-Carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid | C(N)(=O)N1C=C(C2=CC(=CC=C12)OCC(=O)O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C25H23ClFN5O6
